US06232314B1
4′-Chloro-3-(piperazin-1-yl)propiophenone was prepared from commercially available 3,4′-dichloropropiophenone (Aldrich, 14,159-3) and piperazine according to the general methodology described at step A of example 1.

reactant | 3,4′-dichloropropiophenone | ClCCC(=O)C1=CC=C(C=C1)Cl | C9H8Cl2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 4′-Chloro-3-(piperazin-1-yl)propiophenone | ClC1=CC=C(C=C1)C(CCN1CCNCC1)=O | C13H17ClN2O
